US06699887B2
A solution of 77 mg of [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone and 119 mg of sodium borohydride in 5 ml of methanol was stirred at room temperature for 24 h. 20 ml of water was added and the mixture was extracted three times with 15 ml of diethyl ether. The combined extracts were dried over magnesium sulphate, filtered and evaporated to give 54 mg of [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol as a colourless gum which was used without further purification. Mass spectrum (ES) m/z 339 [M+H]+, 380 [M+H+CH3CN]+.

reactant | [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 77 mg | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)OC)C(=O)C1=CC=CC=C1)C | C20H20N2O3
reactant | sodium borohydride | 119 mg | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | [1-ethyl-5-(4-methoxyphenoxy)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol | 54 mg | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)OC)C(O)C1=CC=CC=C1)C | C20H22N2O3
